US05310748
Part A. A mineral oil suspension of sodium hydride (0.91 g, 50%, 37.8 mmol) was washed with hexane and dried under vacuum, then suspended in dimethylsulfoxide (20 mL). The mixture was cooled to 0° C., and a solution of 2-methyl-1H-benzimidazole (5.00 g, 37.8 mmol) was added dropwise with stirring. The mixture was stirred for 5 hours with warming to ambient temperature, then was treated dropwise with a solution of chloroethyl ether (8.90 mL, 75.6 mmol). Sodium iodide (2.83 g, 18.9 mmol) was added, and the mixture was heated to 90° C. for 18 hours. After being cooled to ambient temperature, the reaction mixture was poured into 400 mL ethyl acetate, and washed with water (3×400 mL). The aqueous phases were back-extracted in sequence with ethyl acetate (400 mL). The organic phases were combined, dried over anhydrous magnesium sulfate, filtered and evaporated. The residual oil was separated by flash chromatography to afford the product, 1-[ 2-(2-chloroethoxy)ethyl]-2-methyl-1H-benzimidazole, as a white solid, m.p. 96°-98° C. 1H NMR (CDCl3): 7.74-7.64 (1H, m); 7.31-7.20 (3H, m); 4.31 (2H, t, J=5.4 Hz); 3.81 (2H, t, J=5.4 Hz); 3.59 (2H, t, J=5.1 Hz); 3.51 (2H, t, J=5.1 Hz); 2.64 (3H, s).

reactant | sodium hydride | 37.8 mmol, 0.91 g | [H-].[Na+]
reactant | 2-methyl-1H-benzimidazole | 37.8 mmol, 5.00 g | CC1=NC2=C(N1)C=CC=C2 | C8H8N2
reactant | chloroethyl ether | 75.6 mmol, 8.90 mL | ClCCOCCCl | C4H8Cl2O
reactant | Sodium iodide | 18.9 mmol, 2.83 g | [I-].[Na+]
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 1-[ 2-(2-chloroethoxy)ethyl]-2-methyl-1H-benzimidazole | ClCCOCCN1C(=NC2=C1C=CC=C2)C | C12H15ClN2O
